US07112594B2
N-[3-cyano-4-(4-hydroxypiperidin-1-yl)phenyl]benzo[b]thiophene-2-carboxamide
By the reaction and treatment in the same manner as in Example 6 using benzo[b]thiophene-2-carboxylic acid (4 g) and 5-amino-2-(4-hydroxypiperidin-1-yl)benzonitrile (4 g), the title compound (2.8 g) was obtained. melting point: 224-225° C.

reactant | benzo[b]thiophene-2-carboxylic acid | 4 g | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | 5-amino-2-(4-hydroxypiperidin-1-yl)benzonitrile | 4 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)O | C12H15N3O
product | N-[3-cyano-4-(4-hydroxypiperidin-1-yl)phenyl]benzo[b]thiophene-2-carboxamide | 2.8 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)O)NC(=O)C1=CC2=C(S1)C=CC=C2 | C21H19N3O2S
